US06680304B2
1D N-Acetylglucosamine (XIIIa)
D-glucosamine hydrochloride (100 g, 0.46 mol) is added to a 0.6M solution of MeONa/MeOH and stirred for 5 minutes. Acetic anhydride (48 ml) is then added, and after 30 minutes a white precipitate appears, which is filtered and washed with cold ethanol. The liquor is recrystallised from absolute ethanol, obtaining 79.3 g of the compound (quantitative).

reactant | D-glucosamine hydrochloride | 0.46 mol, 100 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | MeONa MeOH | CO[Na].CO
reactant | Acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-Acetylglucosamine | 79.3 g | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
